US07265149B2
In analogy to the procedure described in example 1 f], {6-[2-difluoromethyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester was treated with LiOH to obtain {6-[2-difluoromethyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid as colorless crystals.

reactant | {6-[2-difluoromethyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1N(N=C(C1)C1=CC=C(C=C1)OC(F)(F)F)C(F)F)=O | C24H20F5N3O4
reactant | LiOH | [Li+].[OH-]
product | {6-[2-difluoromethyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid | FC(N1N=C(C=C1COC1=CC=C2C=CN(C2=C1)CC(=O)O)C1=CC=C(C=C1)OC(F)(F)F)F | C22H16F5N3O4
